US08710236B2
To (4-tert-Butyl-phenyl)-acetic acid benzyl ester (92 g, 7.1 mmol) in tetrahydrofuran (50 ml) was added lithium diisopropylamide (8.5 mmol) at −78° C. After 30 min, 4-nitrobenzyl bromide (1.6 g, 7.5 mmol) was added. The cold bath was removed and the reaction mixture was allowed to warm to ambient temperature in 1 h. The reaction mixture was concentrated, partitioned between ethyl acetate and 1N ammonium chloride, washed with water, and dried over magnesium sulfate. Chromatography of the residue (5% ethyl acetate in hexane) afforded 2-(4-tert-Butyl-phenyl)-3-(4-nitro-phenyl)-propionic acid benzyl ester as a yellow oil (2.46, 83%).

reactant | (4-tert-Butyl-phenyl)-acetic acid benzyl ester | 7.1 mmol, 92 g | C(C1=CC=CC=C1)OC(CC1=CC=C(C=C1)C(C)(C)C)=O | C19H22O2
reactant | lithium diisopropylamide | 8.5 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4-nitrobenzyl bromide | 7.5 mmol, 1.6 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(4-tert-Butyl-phenyl)-3-(4-nitro-phenyl)-propionic acid benzyl ester | C(C1=CC=CC=C1)OC(C(CC1=CC=C(C=C1)[N+](=O)[O-])C1=CC=C(C=C1)C(C)(C)C)=O | C26H27NO4
